US04507498
A mixture of 3.08 g of 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butanoic acid ethyl ester, 16.0 g of 1,11-dibromo-3,6,9-trioxaundecane and 2.8 g of anhydrous potassium carbonate in 75 ml of anhydrous acetone was stirred at reflux for 5 days. During this period, 1.0 g portions of potassium carbonate were added after 18 hours and after 25 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to an oil (20 g) which was chromatographed on 200 g of silica gel using 10% ethyl acetatetoluene to give 3.24 g (59% yield) of 4-[4-acetyl-3-[2-[2-[2-(2-bromoethoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester as an oil.

reactant | 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butanoic acid ethyl ester | 3.08 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C17H24O5
reactant | 1,11-dibromo-3,6,9-trioxaundecane | 16.0 g | BrCCOCCOCCOCCBr | C8H16Br2O3
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 4-[4-acetyl-3-[2-[2-[2-(2-bromoethoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester | 3.24 g, 59% yield | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCOCCOCCOCCBr)CCC)=O | C25H39BrO8
